US06790854B2
(c) 1-Bromo-3-(4-diethylcarbamoylphenyl)-3-(3-methoxyphenyl)Propane
3-(4-Diethylcarbamoylphenyl)-1-hydroxy-3-(3-methoxyphenyl)propane (215 mg) was dissolved in acetonitrile (4 ml), added with triphenylphosphine (304 mg) and carbon tetrabromide (385 mg) under ice cooling and stirred at room temperature for 30 minutes. The reaction mixture was added with water (5 ml) and extracted twice with dichloromethane (5 ml). The organic layer was dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: hexane: ethyl acetate=2:1) to obtain 189 mg of the title compound. Yield: 74%.

reactant | 3-(4-Diethylcarbamoylphenyl)-1-hydroxy-3-(3-methoxyphenyl)propane | 215 mg | C(C)N(C(=O)C1=CC=C(C=C1)C(CCO)C1=CC(=CC=C1)OC)CC | C21H27NO3
reactant | triphenylphosphine | 304 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 385 mg | C(Br)(Br)(Br)Br | CBr4
reactant | water | 5 ml | O | H2O
solvent | acetonitrile | 4 ml | C(C)#N | C2H3N
product | 1-Bromo-3-(4-diethylcarbamoylphenyl)-3-(3-methoxyphenyl)Propane | 189 mg, Yield: 74% | BrCCC(C1=CC(=CC=C1)OC)C1=CC=C(C=C1)C(N(CC)CC)=O | C21H26BrNO2
